US07678818B2
Preparation of 5-chloro-2-cyclopropylamino-benzoic acid
To a solution of 500 mg of 2-amino-5-chloro-benzoic acid (2.91 mmol) in methanol were added 3 Å molecular sieves, 2.34 ml of [(1-ethoxycyclopropyl)oxy]trimethylsilane (11.66 mmol) and 1.67 ml of acetic acid and the mixture was stirred for 30 min at RT. Then 916 mg of sodium cyanoborohydride (14.57 mmol) were added and the reaction mixture was heated to reflux for 16 h. The reaction mixture was allowed to cool to RT, filtered and the filtrate was concentrated in vacuo. The remaining solid was dissolved in ethyl acetate and the solution was washed with 1N HCl and brine, dried (MgSO4), filtered and concentrated to give 312 mg of the crude title compound that was used in the following step without further purification. 1HNMR (DMSO-d6, 300 MHz): δ 0.46 (m, 2H), 0.79 (m, 2H), 3.44 (m, 1H), 7.10 (d, J=8.9 Hz, 1H), 7.44 (d, J=8.9 Hz, 1H), 7.70 (s, 1H), 7.89 (br s, 1H), 13.09 (br s, 1H).

reactant | 2-amino-5-chloro-benzoic acid | 2.91 mmol, 500 mg | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | [(1-ethoxycyclopropyl)oxy]trimethylsilane | 11.66 mmol, 2.34 ml | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | acetic acid | 1.67 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 14.57 mmol, 916 mg | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 5-chloro-2-cyclopropylamino-benzoic acid | 312 mg | ClC=1C=CC(=C(C(=O)O)C1)NC1CC1 | C10H10ClNO2
